US07820675B2
7-Methyl-5-nitro-1-benzofuran
7-Iodo-5-nitro-benzofuran (6.5 g, 22.1 mmol), Pd(OAc)2 (1 g, 3.9 mmol), P(o-tolyl)3, Me4Sn, Et3N were dissolved in DMF (40 mL) and portioned out in 13 tubes and heated at 100° C. for 10 min each using controlled microwave energy. The reaction mixtures were combined and filtered and the solvent was evaporated. The crude material was purified using flash chromatography (using a gradient of isohexane—10% EtOAc in isohexane). Yield: 2.82 g (70%) of 7-methyl-5-nitro-1-benzofuran. 1H NMR (400 MHz, CDCl3) δ ppm 2.51-2.64 (m, 3H) 6.90 (d, J=2.3 Hz, 1H) 7.77 (d, J=2.3 Hz, 1H) 8.04 (d, J=1.3 Hz, 1H) 8.37 (d, J=2.3 Hz, 1H); HPLC 96% Rt=2.31 min (System A; 10-97% in 3 min ACE column). MS (ESI+) for C9H7NO3 m/z 178 (M+H)+.

reactant | 7-Iodo-5-nitro-benzofuran | 22.1 mmol, 6.5 g | IC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C8H4INO3
reactant | P(o-tolyl)3 | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | Me4Sn | [Sn](C)(C)(C)C
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 3.9 mmol, 1 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 7-Methyl-5-nitro-1-benzofuran | CC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C9H7NO3
